US08039463B2
HOBt (34 mg, 0.25 mmol) and DIPEA (67.9 mg, 0.51 mmol) were added to a stirred solution of 2-bromobenzoic acid (42 mg, 0.21 mmol) in DMF (2 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (48 mg, 0.25 mmol) followed by N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride (75 mg, 0.2 mmol) were added. The reaction mixture was stirred at room temperature overnight, then diluted with water and the product extracted with ethyl acetate. The ethyl acetate was washed with brine solution, dried over Na2SO4 and evaporated. The residue was purified by column chromatography using silica gel 60-120 mesh (80% ethyl acetate in hexane) to afford 35 mg (33%) of N-biphenyl-4-yl-3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionamide. LCMS: 506.10 (M+1)+ 96.5%, 1H NMR: (CDCl3): δ 9.6 (d, 1H), 7.6 (m, 6H), 7.35 (m, 5H), 4.0 (m, 1H), 3.74 (m, 4H), 3.54 (d, 2H), 3.3 (m, 2H).

reactant | HOBt | 0.25 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 67.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromobenzoic acid | 0.21 mmol, 42 mg | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | EDCI.HCl | 0.25 mmol, 48 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride | 0.2 mmol, 75 mg | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionamide | 35 mg, 33% | C1(=CC=C(C=C1)NC(CC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)Br)=O)=O)C1=CC=CC=C1 | C26H24BrN3O3
